Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-3.36880503313
[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-4.6515721041
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3],2.99578399959
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1],4.58413073744
[H:1][O:2][C:3]#[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-2.29101327379
[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-6.70835779
[H:1][C:2]#[C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8],4.7546991510300005
[C:3]([H:4])([H:5])=[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-3.78608586938
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3][H:4],6.6359875
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]#[C:3],5.35690856946
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],1.42012565281
[C:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])[H:8])=[O:9]>>[C:1][C:2]([H:3])=[C:4]1[O:5][C:6]([H:7])([H:8])[O:9]1,0.3806860413099999
[O:1][C@@:2]1([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-0.262001257001
[C:1]=[C:2]([C:3](=[O:4])[O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1].[C:2]([C:3](=[O:4])[O:5][H:6])[C:7]([H:8])([H:9])[H:10],6.72588068597
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])=[O:9],3.37175013624
[C:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.686764124780001
[H:1][C:2]#[C:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])=[C:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.02149197653
[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1],1.73793760248
[H:4].[O:1]=[C:2]([H:3])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-1.26951644999
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:1].[O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10],4.43048494272
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10],4.19078668535
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12],-3.87830744275
[C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-10.6536027464
[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10]>>[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]=[C:3]([H:4])[H:5],0.3542216963099999
[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1][C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-0.852410460907
[H:1][O:2][C:3]#[C:4][C:5][O:6][C:7]([H:8])[H:9]>>[C:4]#[C:5][O:6][C:7]([H:8])[H:9].[H:1][O:2][C:3],4.39858283856
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]1([H:7])[C:8]([H:9])=[C:10]1[C:11]([H:12])([H:13])[H:14],-1.71401847435
[H:1][C:2][C:3]([H:4])=[C:5][H:6].[O:7]=[C:8]([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-3.57827270148
[H:1][C:2].[O:3]=[C:4]([H:5])[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[O:10][H:11],-5.01455972265
